US04666931
2-Carboxy-7-hydroxybenzofuran and ethyl bromoacetate were reacted to give 2-(ethoxycarbonylmethoxycarbonyl)-7-(ethoxycarbonylmethoxy)benzofuran (yield: 78%, MS (m/z): 350 (M+), 305, 277, 249 and 219), which was then reacted with chlorosulfonic acid as in Example 1, yielding 2-(ethoxycarbonylmethoxycarbonyl)-4-chlorosulfonyl-7-ethoxycarbonylmethoxybenzofuran (yield: 68%, MS (m/z): 448 (M+), 413, 382 and 350). The obtained chlorosulfonyl compound was reacted with glycine ethyl ester hydrochloride as in Example 1 to give an ester compound (yield: 98%, MS (m/z): 515 (M+), 470, 442, 414 and 350), which was then hydrolyzed to give 2-carboxy-4-(N-carboxy-methylsulfamoyl)-7-(carboxymethoxy)benzofuran (colorless needles, yield: 83%). The physical constants are shown in Table 4.

reactant | 2-Carboxy-7-hydroxybenzofuran | C(=O)(O)C=1OC2=C(C1)C=CC=C2O | C9H6O4
reactant | ethyl bromoacetate | BrCC(=O)OCC | C4H7BrO2
product | 2-(ethoxycarbonylmethoxycarbonyl)-7-(ethoxycarbonylmethoxy)benzofuran | yield: 78% | C(C)OC(=O)COC(=O)C=1OC2=C(C1)C=CC=C2OCC(=O)OCC | C17H18O8
